US07238716B2
To a mixture of [3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenyl]methanol (1.92 g), methyl 5-hydroxynicotinate (1.0 g), tributylphosphine (1.98 g) and tetrahydrofuran (100 mL) was added 1,1′-(azodicarbonyl)dipiperidine (2.47 g) at room temperature and the mixture was stirred for 15 hrs. The precipitated crystals were removed by filtration. The filtrate was concentrated and the residue was subjected to silica gel column chromatography to give crystals (2.21 g, 79%) of methyl 5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinate from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 96-97° C.

reactant | [3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenyl]methanol | 1.92 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)CO | C18H17NO3
reactant | methyl 5-hydroxynicotinate | 1.0 g | OC=1C=NC=C(C(=O)OC)C1 | C7H7NO3
reactant | tributylphosphine | 1.98 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.47 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinate | 2.21 g, 79% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(COC=2C=NC=C(C(=O)OC)C2)C=CC1 | C25H22N2O5
